US06548511B1
3-Cyclohexyl-2-methylthio-6-trifluoromethyl-4(3H)-pyrimidinone which had been synthesized in accordance with the method of Example 24 was allowed to react with 2,5-bis(trifluoromethyl)aniline, thereby obtaining white solid of 2-{2,5-bis(trifluoromethyl)phenyl}amino-3-cyclohexyl-6-trifluoromethyl-4(3H)-pyrimidinone [Compound No. 64].

reactant | 3-Cyclohexyl-2-methylthio-6-trifluoromethyl-4(3H)-pyrimidinone | C1(CCCCC1)N1C(=NC(=CC1=O)C(F)(F)F)SC | C12H15F3N2OS
reactant | 2,5-bis(trifluoromethyl)aniline | FC(C1=C(N)C=C(C=C1)C(F)(F)F)(F)F | C8H5F6N
product | 2-{2,5-bis(trifluoromethyl)phenyl}amino-3-cyclohexyl-6-trifluoromethyl-4(3H)-pyrimidinone | Yield: 60% | FC(C1=C(C=C(C=C1)C(F)(F)F)NC1=NC(=CC(N1C1CCCCC1)=O)C(F)(F)F)(F)F | C19H16F9N3O
